US06130188
(b) 2,6-Bis(1-methyl-3-trifluoromethylpyrazol-5-yloxy)-4-methoxypyridine
A 3 ml aliquot of a 25 % solution of potassium methylate (10 mmol) in dry methanol is added to a solution of 5.7 g (10 mmol) 2,4,6-tris-(1-methyl-3-trifluoromethylpyrazol-5-yloxy)pyridine in 20 ml anhydrous methanol. After 2 hours at ambient temperature, the reaction mixture is heated to reflux. The solvent is removed under reduced pressure and ethyl acetate is added to the residue. The mixture is washed with a 2 N sodium hydroxide solution. After drying and filtration of the organic layer, the solvents are removed and the residue is washed with diisopropyl ether and pentane. Colorless crystals (1.9 g, 43 % yield) of melting point 107° C. are obtained.

reactant | potassium methylate | 10 mmol | C[O-].[K+]
reactant | 2,4,6-tris-(1-methyl-3-trifluoromethylpyrazol-5-yloxy)pyridine | 10 mmol, 5.7 g | CN1N=C(C=C1OC1=NC(=CC(=C1)OC1=CC(=NN1C)C(F)(F)F)OC1=CC(=NN1C)C(F)(F)F)C(F)(F)F | C20H14F9N7O3
solvent | methanol | CO | CH4O
solvent | methanol | 20 ml | CO | CH4O
product | 2,6-Bis(1-methyl-3-trifluoromethylpyrazol-5-yloxy)-4-methoxypyridine | 1.9 g, 43 % yield | CN1N=C(C=C1OC1=NC(=CC(=C1)OC)OC1=CC(=NN1C)C(F)(F)F)C(F)(F)F | C16H13F6N5O3
